US08497381B2
Step 5: [6-Methoxy-2′-((3aR,8aS)-2-oxo-8,8a-dihydro-3aH-indeno[1,2-d]oxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
To {2′-[((1R,2S)-2-hydroxy-indan-1-ylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester (0.178 g, 0.37 mmol) in toluene (3 mL) was added triethylamine (0.18 mL, 1.29 mmol), and the mixture was cooled to 0° C. Phosgene (1.9M in toluene; 0.23 mL, 0.44 mmol) was added, and the reaction was stirred for 20 minutes at 0° C. The mixture was diluted with EtOAc, H2O, and brine, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | {2′-[((1R,2S)-2-hydroxy-indan-1-ylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | 0.37 mmol, 0.178 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN[C@H]1[C@H](CC2=CC=CC=C12)O)=O | C27H26F3NO4
reactant | triethylamine | 1.29 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | Phosgene | 0.44 mmol, 1.9M, 0.23 mL | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
solvent | brine | [Cl-].[Na+].O
product | [6-Methoxy-2′-((3aR,8aS)-2-oxo-8,8a-dihydro-3aH-indeno[1,2-d]oxazol-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]2[C@H]1C=1C=CC=CC1C2)=O)=O | C28H24F3NO5
